US09302996B2
In tetrahydrofuran (10 mL) was suspended 2,2-dimethyl-3-[4-[5-[4-(trifluoromethyl)-1H-imidazol-2-yl]-2-pyridyl]phenoxy]propanoic acid (1001 mg), and the mixture was stirred at room temperature for 30 minutes. 10M aqueous potassium hydroxide solution (0.25 mL) was added dropwise to the mixture, and the mixture was stirred at room temperature for 2 hours. The precipitated solid was collected by filtration, washed with tetrahydrofuran, and dried under reduced pressure to obtain potassium 2,2-dimethyl-3-[4-[5-[4-(trifluoromethyl)-1H-imidazol-2-yl]-2-pyridyl]phenoxy]propanoate (995 mg).

reactant | 2,2-dimethyl-3-[4-[5-[4-(trifluoromethyl)-1H-imidazol-2-yl]-2-pyridyl]phenoxy]propanoic acid | 1001 mg | CC(C(=O)O)(COC1=CC=C(C=C1)C1=NC=C(C=C1)C=1NC=C(N1)C(F)(F)F)C | C20H18F3N3O3
reactant | potassium hydroxide | 10M, 0.25 mL | [OH-].[K+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | potassium 2,2-dimethyl-3-[4-[5-[4-(trifluoromethyl)-1H-imidazol-2-yl]-2-pyridyl]phenoxy]propanoate | 995 mg | CC(C(=O)[O-])(COC1=CC=C(C=C1)C1=NC=C(C=C1)C=1NC=C(N1)C(F)(F)F)C.[K+] | InChI=1S/C20H18F3N3O3.K/c1-19(2,18(27)28)11-29-14-6-3-12(4-7-14)15-8-5-13(9-24-15)17-25-10-16(26-17)20(21,22)23;/h3-10H,11H2,1-2H3,(H,25,26)(H,27,28);/q;+1/p-1
